US07875645B2
rac-2-[1-(3-Fluoro-phenyl)-propyl]-4,5-dihydro-1H-imidazole was prepared from rac-2-(3-fluoro-phenyl)-butyronitrile and ethylene diamine in analogy to Example 19 b): colourless powder; MS (ISP): 207.1 ((M+H)+.).

reactant | rac-2-(3-fluoro-phenyl)-butyronitrile | FC=1C=C(C=CC1)C(C#N)CC | C10H10FN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-[1-(3-Fluoro-phenyl)-propyl]-4,5-dihydro-1H-imidazole | FC=1C=C(C=CC1)C(CC)C=1NCCN1 | C12H15FN2
